US07776910B2
3-[2-Ethoxycarbonyl-4-(3-fluoro-benzenesulfonyl)-phenyl]-pyrrole-1-carboxylic acid tert-butyl ester (288 mg, 0.608 mmol) was dissolved in 40 ml of MeOH. Pd(OH)2 (200 mg) was added and the mixture was placed in a Parr bomb and stirred under 200 psi of Hydrogen for 72 hours. The solution was filtered through Celite and the filtrate was concentrated under reduced pressure to give 290 mgs (quantitative) of 3-[2-Ethoxycarbonyl-4-(3-fluoro-benzenesulfonyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester as a white crystalline solid.

reactant | 3-[2-Ethoxycarbonyl-4-(3-fluoro-benzenesulfonyl)-phenyl]-pyrrole-1-carboxylic acid tert-butyl ester | 0.608 mmol, 288 mg | C(C)(C)(C)OC(=O)N1C=C(C=C1)C1=C(C=C(C=C1)S(=O)(=O)C1=CC(=CC=C1)F)C(=O)OCC | C24H24FNO6S
reactant | Hydrogen | [H][H] | H2
solvent | MeOH | 40 ml | CO | CH4O
catalyst | Pd(OH)2 | 200 mg | [OH-].[OH-].[Pd+2]
product | 3-[2-Ethoxycarbonyl-4-(3-fluoro-benzenesulfonyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 290 mgs | C(C)(C)(C)OC(=O)N1CC(CC1)C1=C(C=C(C=C1)S(=O)(=O)C1=CC(=CC=C1)F)C(=O)OCC | C24H28FNO6S
